US03983238
3 -Hydroxy-5-isonicotinoyloxymethyl-2-methylpyridine
To a solution of 2.4 g. of 3-acetoxy-5-hydroxymethyl-2-methylpyridine hydrochloride in 20 ml. of pyridine was added a solution of 2.0 g. of isonicotinoyl chloride hydrochloride in 15 ml. of dimethylformamide under cooling and the resulting mixture was stirred at room temperature for 16 hours. Then, the reaction mixture was poured into ice-water and the mixture was extracted with chloroform. The extract was washed with water, dried over anhydrous sodium sulfate and the solvent was distilled off to give an oily substance. The substance was taken into 25 ml. of 2N HCl and the resulting mixture was stirred at 80°C. for 30 minutes. The mixture was neutralized with sodium bicarbonate, filtered and recrystallized from methanol to give 0.9 g. of the desired product. m. p. 180° - 180.5°C.

reactant | 3-acetoxy-5-hydroxymethyl-2-methylpyridine hydrochloride | Cl.C(C)(=O)OC=1C(=NC=C(C1)CO)C
reactant | isonicotinoyl chloride hydrochloride | Cl.C(C1=CC=NC=C1)(=O)Cl
reactant | HCl | 2N | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3 -Hydroxy-5-isonicotinoyloxymethyl-2-methylpyridine | OC=1C(=NC=C(C1)COC(C1=CC=NC=C1)=O)C | C13H12N2O3
